US08026233B2
To a solution of 1-(6-bromo-5-(2,4-difluorophenoxy)-1H-indazol-1-yl)-2-methylpropan-2-ol (0.691 g, 1.74 mmol) in 9:1 methanol/water v/v (11.6 mL) was added palladium (II) acetate (0.0195 g, 0.0870 mmol), 1-((3-(diphenylphosphino)propyl)(phenyl)phosphino)benzene (0.0359 g, 0.0870 mmol), and potassium carbonate (0.721 g, 5.22 mmol). The flask was evacuated and backfilled three times with carbon monoxide, and heated to 50° C. under a carbon monoxide balloon for S hours. The reaction mixture was acidified with 5N HCl and extracted twice with dichloromethane. The organic layer was concentrated, taken up in 5M NaOH, was washed twice with ethyl acetate, and then acidified to pH 1 with HCl. The organic layer was then extracted twice with ethyl acetate, dried over anhydrous sodium sulfate, filtered, and concentrated to yield 5-(2,4-difluorophenoxy)-1-(2-hydroxy-2-methylpropyl)-1H-indazole-6-carboxylic acid (0.280 g, 44.4% yield).

reactant | 1-(6-bromo-5-(2,4-difluorophenoxy)-1H-indazol-1-yl)-2-methylpropan-2-ol | 1.74 mmol, 0.691 g | BrC1=C(C=C2C=NN(C2=C1)CC(C)(O)C)OC1=C(C=C(C=C1)F)F | C17H15BrF2N2O2
reactant | 1-((3-(diphenylphosphino)propyl)(phenyl)phosphino)benzene | 0.0870 mmol, 0.0359 g | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | potassium carbonate | 5.22 mmol, 0.721 g | C([O-])([O-])=O.[K+].[K+]
catalyst | palladium (II) acetate | 0.0870 mmol, 0.0195 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | methanol water | CO.O
product | 5-(2,4-difluorophenoxy)-1-(2-hydroxy-2-methylpropyl)-1H-indazole-6-carboxylic acid | 0.280 g, 44.4% yield | FC1=C(OC=2C=C3C=NN(C3=CC2C(=O)O)CC(C)(C)O)C=CC(=C1)F | C18H16F2N2O4
